US09193723B2
N-(4-{[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]amino}phenyl)biphenyl-2-sulfonamide
In a 4 mL vial was mixed 1-(4-aminophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea (50 mg, 0.178 mmol) in anhydrous tetrahydrofuran (2 mL). To this mixture at room temperature was added 60% sodium hydride (24.88 mg, 0.622 mmol). The reaction was stirred about 30 minutes and biphenyl-2-sulfonyl chloride (53.9 mg, 0.213 mmol) was added. The reaction mixture stirred overnight at room temperature and was quenched with saturated ammonium chloride and water. The aqueous solution was extracted with dichloromethane and 10% methanol/dichloromethane. The organic layers were combined, concentrated and purified by normal phase chromatography to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.74 (bs, 1H), 8.56 (s, 1H), 8.47 (dd, J=6.9, 0.9 Hz, 1H), 7.95 (dd, J=7.8, 1.4 Hz, 1H), 7.87 (dd, J=1.2, 0.6 Hz, 1H), 7.62 (m, 1H), 7.54 (m, 1H), 7.51 (m, 1H), 7.38 (m, 4H), 7.30-7.20 (m, 5H), 6.82 (m, 3H), 6.66 (t, J=6.0 Hz, 1H), 4.30 (d, J=6.0 Hz, 2H); (ESI(+)) m/e 498 (M+H)+.

reactant | 1-(4-aminophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea | 0.178 mmol, 50 mg | NC1=CC=C(C=C1)NC(=O)NCC1=CC=2N(C=C1)C=CN2 | C15H15N5O
reactant | sodium hydride | 0.622 mmol, 24.88 mg | [H-].[Na+]
reactant | biphenyl-2-sulfonyl chloride | 0.213 mmol, 53.9 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-(4-{[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]amino}phenyl)biphenyl-2-sulfonamide | N=1C=CN2C1C=C(C=C2)CNC(=O)NC2=CC=C(C=C2)NS(=O)(=O)C=2C(=CC=CC2)C2=CC=CC=C2 | C27H23N5O3S
